US06962917B2
(a) 3-Fluoro-benzene-1,2-diamine
A solution of 2-fluoro-6-nitro-phenylamine [K. L. Kirk and L. A. Cohen J. Org. Chem. 34, 384-389 (1969)] (1.05 g) in ethanol (50 ml) was hydrogenated over 10% palladium on carbon (0.5 g), filtered and evaporated to give a brown solid, used without purification.

reactant | 2-fluoro-6-nitro-phenylamine | FC1=C(C(=CC=C1)[N+](=O)[O-])N | C6H5FN2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 3-Fluoro-benzene-1,2-diamine | FC1=C(C(=CC=C1)N)N | C6H7FN2
